US06492383B1
7-Chloro-2-(3-methyl-3H-imidazol-4-yl)-thieno[3,2-b]pyridine (600 mg, 2.40 mmol) and 2-methyl-5-aminoindole (422 mg, 2.89 mmol) were dissolved in 20 mL of tert-butanol and 20 mL of dichloroethane and heated to 85° C. The solvent was allowed to evaporate overnight and was replaced the following day with the same amounts as in the initial reaction mixture along with an additional 90 mg of the indole. The solution was heated an additional 24 hours and allowed to go dry as before. Chromatography of the residue with 30-5-% methanol:ethyl acetate afforded 142 mg (16%) of [2-(3-methyl-3H-imidazol-4-yl)-thieno[3,2-b]pyridin-7-yl]-(2-methyl-1H-indol-5-yl)-amine. 1H NMR (400 MHz, CD3OD) δ8.14 (d, 1H), 7.79 (s, 1H), 7.75 (s, 1H), 7.40 (s, 1H), 7.34 (d, 1H), 7.29 (s, 1H), 6.99 (d, 1H), 6.72 (d, 1H), 6.17 (s, 1H), 3.84 (s, 3H), 2.44 (s, 3H). LC-MS: 360, 361 (MH+); HPLC RT: 3.96 min.

reactant | 7-Chloro-2-(3-methyl-3H-imidazol-4-yl)-thieno[3,2-b]pyridine | 2.40 mmol, 600 mg | ClC1=C2C(=NC=C1)C=C(S2)C=2N(C=NC2)C | C11H8ClN3S
reactant | 2-methyl-5-aminoindole | 2.89 mmol, 422 mg | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
reactant | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
solvent | tert-butanol | 20 mL | C(C)(C)(C)O | C4H10O
product | [2-(3-methyl-3H-imidazol-4-yl)-thieno[3,2-b]pyridin-7-yl]-(2-methyl-1H-indol-5-yl)-amine | 142 mg, 16% | CN1C=NC=C1C1=CC2=NC=CC(=C2S1)NC=1C=C2C=C(NC2=CC1)C | C20H17N5S
